US04696938
6-(2-fluorophenyl)-2-methylpyridine was prepared substantially according to the procedures of Example 1 for preparing 6-(2-chlorophenyl)-2-methylpyridine except 2-fluorobenzaldehyde was used to afford 6-(2-fluorophenyl)-2-methylpyridine.

reactant | 6-(2-chlorophenyl)-2-methylpyridine | ClC1=C(C=CC=C1)C1=CC=CC(=N1)C | C12H10ClN
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
product | 6-(2-fluorophenyl)-2-methylpyridine | FC1=C(C=CC=C1)C1=CC=CC(=N1)C | C12H10FN
